US08445480B2
Step C. 7-Isopropyl-2-[4-({8-[4-(trifluoromethyl)pyrimidin-2-yl]-2,8-diazaspiro[4.5]dec-2-yl}carbonyl)phenyl]-1,3-benzoxazole-5-carbonitrile
To a solution of 2-[4-(2,8-diazaspiro[4.5]dec-2-ylcarbonyl)phenyl]-7-isopropyl-1,3-benzoxazole-5-carbonitrile (25 mg, 0.046 mmol) in methanol (2 ml) were added potassium carbonate (13 mg, 0.094 mmol) and 2-chloro-4-(trifluoromethyl)pyrimidine (10 μl, 0.083 mmol). The mixture was heated to 50° C. and stirred at this temperature overnight, at which point LC/MS analysis showed a peak at the desired molecular weight. The reaction mixture was purified by flash chromatography on a Biotage Horizon, 25S column, eluting with 1 column volume of 100% dichloromethane followed by a gradient of 0 to 100% ethyl acetate in dichloromethane over 10 column volumes to provide the title compound (17.4 mg, 0.030 mmol, 65.7% yield). Mass spectrum (ESI) 575.2 (M+1).

reactant | 2-[4-(2,8-diazaspiro[4.5]dec-2-ylcarbonyl)phenyl]-7-isopropyl-1,3-benzoxazole-5-carbonitrile | 0.046 mmol, 25 mg | C1N(CCC12CCNCC2)C(=O)C2=CC=C(C=C2)C=2OC1=C(N2)C=C(C=C1C(C)C)C#N | C26H28N4O2
reactant | potassium carbonate | 0.094 mmol, 13 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-4-(trifluoromethyl)pyrimidine | 0.083 mmol, 10 μl | ClC1=NC=CC(=N1)C(F)(F)F | C5H2ClF3N2
solvent | methanol | 2 ml | CO | CH4O
product | 7-Isopropyl-2-[4-({8-[4-(trifluoromethyl)pyrimidin-2-yl]-2,8-diazaspiro[4.5]dec-2-yl}carbonyl)phenyl]-1,3-benzoxazole-5-carbonitrile | 0.030 mmol, 17.4 mg, 65.7% yield | C(C)(C)C1=CC(=CC=2N=C(OC21)C2=CC=C(C=C2)C(=O)N2CC1(CC2)CCN(CC1)C1=NC=CC(=N1)C(F)(F)F)C#N | C31H29F3N6O2
